### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): Asymptotics of Jacobi theta functions

### PR DESCRIPTION
**Pull request by loefflerd**
This is a (rather boring) technical step in developing the theory of Hurwitz zeta functions: one needs to show that certain
sums related to Jacobi theta series decay exponentially for large `t`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 1]
```diff
@@ -0,0 +1,271 @@
...
+    simp_rw [neg_mul π (a ^ 2)]
+    simpa only [mul_one] using (isBigO_refl (fun t ↦ rexp (-(π * a ^ 2) * t)) _).mul aux
+
+end k_eq_zero
+
+section k_eq_one
+/-!
+## Sum over `ℕ` with `k = 1`
+
+Here we use comparison with the series `∑ n r ^ n`, where `r = exp (-π * t)`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:127]:
```suggestion
Here we use comparison with the series `∑ n * r ^ n`, where `r = exp (-π * t)`.
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 2]
```diff
@@ -0,0 +1,271 @@
...
+
+lemma isBigO_atTop_F_nat_one {a : ℝ} (ha : 0 ≤ a) : ∃ p, 0 < p ∧
+    F_nat 1 a =O[atTop] fun t ↦ exp (-p * t) := by
+  suffices ∃ p, 0 < p ∧ (fun t ↦ rexp (-π * (a ^ 2 + 1) * t) / (1 - rexp (-π * t)) ^ 2
+      + a * rexp (-π * a ^ 2 * t) / (1 - rexp (-π * t))) =O[atTop] fun t ↦ exp (-p * t) by
+    let ⟨p, hp, hp'⟩ := this
+    refine ⟨p, hp, (Eventually.isBigO ?_).trans hp'⟩
+    filter_upwards [eventually_gt_atTop 0] with t ht
+    exact F_nat_one_le ha ht
+  have aux : IsBigO atTop (fun t : ℝ ↦ (1 - rexp (-π * t))⁻¹) (fun _ ↦ (1 : ℝ)) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:157]: This is the second time this statement is needed. Extract?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 3]
```diff
@@ -0,0 +1,271 @@
...
+  · simp only [f_int, f_nat, Int.cast_negSucc, norm_mul, norm_eq_abs, abs_pow, abs_abs,
+      (by { push_cast; ring } : -↑(m + 1) + a = -(m + (1 - a))), abs_neg, neg_sq]
+
+lemma _root_.UnitAddCircle.eq_coe_Ico (a : UnitAddCircle) : ∃ b : ℝ, b ∈ Ico 0 1 ∧ ↑b = a := by
+  let b := (QuotientAddGroup.equivIcoMod zero_lt_one 0) a
+  exact ⟨b.1, by simpa only [zero_add] using b.2,
+    (QuotientAddGroup.equivIcoMod zero_lt_one 0).symm_apply_apply a⟩
+
+/-- The sum to be bounded (`ℤ` version). -/
+def F_int (k : ℕ) (a : UnitAddCircle) (t : ℝ) : ℝ :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:211]: I'd probably state the periodicity as a separate lemma and then use that in the definition.
But if inlining it does not lead to problems later, it is fine as is.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 4]
```diff
@@ -0,0 +1,271 @@
...
+    using 3 with n
+  rcases n with m | m
+  · rw [f_int_ofNat _ ha.1]
+  · rw [f_int_negSucc _ ha.2]
+
+lemma isBigO_atTop_F_int_zero_sub (a : UnitAddCircle) : ∃ p, 0 < p ∧
+    (fun t ↦ F_int 0 a t - (if a = 0 then 1 else 0)) =O[atTop] fun t ↦ exp (-p * t) := by
+  obtain ⟨a, ha, rfl⟩ := a.eq_coe_Ico
+  obtain ⟨p, hp, hp'⟩ := isBigO_atTop_F_nat_zero_sub ha.1
+  obtain ⟨n, hn, hn'⟩ := isBigO_atTop_F_nat_zero_sub (sub_nonneg.mpr ha.2.le)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:231]: Mabye use `q` in place of `n` to avoid confusion with the summation index?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 5]
```diff
@@ -0,0 +1,271 @@
...
+  have ha' : (a : UnitAddCircle) = 0 ↔ a = 0 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:232]: This looks like a missing API lemma for `UnitAddCircle`.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 6]
```diff
@@ -0,0 +1,271 @@
...
+    simp
+  simp_rw [ha']
+  simp_rw [eq_false_intro (by linarith [ha.2] : 1 - a ≠ 0), if_false, sub_zero] at hn'
+  refine ⟨min p n, lt_min hp hn, ?_⟩
+  have : (fun t ↦ F_int 0 a t - (if a = 0 then 1 else 0)) =ᶠ[atTop]
+      fun t ↦ (F_nat 0 a t - (if a = 0 then 1 else 0)) + F_nat 0 (1 - a) t := by
+    filter_upwards [eventually_gt_atTop 0] with t ht
+    rw [F_int_eq_of_mem_Icc 0 (Ico_subset_Icc_self ha) ht]
+    ring
+  have aux1 {c d : ℝ} (hcd : c ≤ d) : (rexp <| -d * ·) =O[atTop] (rexp <| -c * ·) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:244]: This also looks like a lemma that could be useful more generally.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 7]
```diff
@@ -0,0 +1,271 @@
...
+    rwa [norm_of_nonneg (exp_pos _).le, exp_le_exp, mul_le_mul_right ht, neg_le_neg_iff]
+  refine this.isBigO.trans ((hp'.trans ?_).add (hn'.trans ?_))
+  · exact aux1 (min_le_left _ _)
+  · exact aux1 (min_le_right _ _)
+
+lemma isBigO_atTop_F_int_one (a : UnitAddCircle) : ∃ p, 0 < p ∧
+    F_int 1 a =O[atTop] fun t ↦ exp (-p * t) := by
+  obtain ⟨a, ha, rfl⟩ := a.eq_coe_Ico
+  obtain ⟨p, hp, hp'⟩ := isBigO_atTop_F_nat_one ha.1
+  obtain ⟨n, hn, hn'⟩ := isBigO_atTop_F_nat_one (sub_nonneg.mpr ha.2.le)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:256]: See above.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 8]
```diff
@@ -0,0 +1,271 @@
...
+  have := (HasSum.int_rec (summable_f_nat k a ht).hasSum
+    (summable_f_nat k (1 - a) ht).hasSum).summable.norm
+  convert this using 2 with n
+  rcases n with m | m
+  · simp only [f_int, f_nat, Int.ofNat_eq_coe, Int.cast_natCast, norm_mul, norm_eq_abs, abs_pow,
+      abs_abs]
+  · simp only [f_int, f_nat, Int.cast_negSucc, norm_mul, norm_eq_abs, abs_pow, abs_abs,
+      (by { push_cast; ring } : -↑(m + 1) + a = -(m + (1 - a))), abs_neg, neg_sq]
+
+lemma _root_.UnitAddCircle.eq_coe_Ico (a : UnitAddCircle) : ∃ b : ℝ, b ∈ Ico 0 1 ∧ ↑b = a := by
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:205]: I've moved this to the file where `AddCircle` and `UnitAddCircle` are defined.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:232]: I've moved this to the file where AddCircle and UnitAddCircle are defined.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:211]: This idiom seems to work quite well (and avoids namespace clutter) so I'd rather leave it as-is.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:157]: This one's maybe a bit too specific, it's very unlikely to be ever needed again after this.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean [hunk 9]
```diff
@@ -0,0 +1,271 @@
...
+## Sum over `ℕ` with `k = 1`
+
+Here we use comparison with the series `∑ n r ^ n`, where `r = exp (-π * t)`.
+-/
+
+lemma F_nat_one_le {a : ℝ} (ha : 0 ≤ a) {t : ℝ} (ht : 0 < t) :
+    ‖F_nat 1 a t‖ ≤ rexp (-π * (a ^ 2 + 1) * t) / (1 - rexp (-π * t)) ^ 2
+      + a * rexp (-π * a ^ 2 * t) / (1 - rexp (-π * t)) := by
+  refine tsum_of_norm_bounded ?_ (f_le_g_nat 1 ha ht)
+  have h0 : rexp (-π * t) < 1 := by
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:134]: I feel this one is borderline in terms of whether it's interesting enough to extract. (One has an urge to generalise, e.g. replace `π` by an arbitrary positive number, etc; but eventually one generalises it away to nothing at all.)

[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:161]: You could extract this and the next one and make them `private` in the file for the time being. If they appear to be useful in the further development, they can be made visible.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/Bounds.lean:184]: I've made it a private lemma as per your other suggestion.

**Comment by loefflerd** [comment]
OK, I've made these lemmas private.

There is still one slight rough edge which is the placement of the lemmas about `UnitAddCircle`. One could formulate versions for `AddCircle T` for a general `T`; but they are false if `T = 0`. Lots of `AddCircle` lemmas get around this by adding `[Fact (0 < T)]` to the instance arguments. However, the typeclass instance machinery doesn't seem to be able to synthesise `[Fact (0 < 1)]` for the reals, and although there's a declaration for it (`Real.fact_zero_lt_one`), it's not a global instance at present (I don't know why). So any code which uses general `AddCircle` lemmas applied to `UnitAddCircle` ends up weighed down with incantations of `local attribute [instance] Real.fact_zero_lt_one`.

I'm going to try testing (and benchmarking) with `Real.fact_zero_lt_one` set globally to an instance, and we'll see if anything bad happens.

**Comment by MichaelStollBayreuth** [comment]
!bench

**Comment by loefflerd** [comment]
Neither of the benchmark runs showed any significant slowdown; so I have included the more wide-ranging approach (a generic instance `Fact (0 < 1)` for any strict ordered semiring) into this PR.

**Comment by MichaelStollBayreuth** [comment]
I think this is now good to be merged.
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
